* Generated by electronics_design from a KiCad schematic
.include "F5models.lib"
R7 out N002 220
R8 out N002 220
R9 out N002 220
R10 out N002 220
R3 N002 0 10
R4 0 N002 10
XP3 N002 0 N002 RPOT value=200 ratio=0.505
Q1 N004 N001 N002 0 2SK170
Q2 N003 N001 N002 0 2SJ74
R1 N001 in 1k
R2 in 0 47.5k
R5 N+32 N004 1k
R6 N003 N-32 1k
XP2 N003 N-32 N-32 RPOT value=5k ratio=0.1
XP1 N004 N+32 N+32 RPOT value=5k ratio=0.15
Rj1 Q3tj 0 1G
Rj2 Q4tj 0 1G
Rj3 Q5tj 0 1G
Rj4 Q6tj 0 1G
R13 N008 N004 47.5
R15 N005 N003 47.5
M5 out N005 N009 Q5tj Q5tc IRFP240 thermal
R12 N006 N003 2.2k
M6 out N012 N013 Q6tj Q6tc IRFP240 thermal
R21 N009 N-32 1
R22 N009 N-32 1
R16 N012 N003 47.5
Rc2 Q3hs N015 2
Rc4 Q4hs N015 2
Rc6 Q5hs N015 2
Rc8 Q6hs N015 2
D1a1 N009 N-32 DMOD
D1b1 N009 N-32 DMOD
R24 N013 N-32 1
R23 N013 N-32 1
D2a1 N013 N-32 DMOD
D2b1 N013 N-32 DMOD
R18 N+32 N010 1
R17 N+32 N010 1
D3a1 N+32 N010 DMOD
D3b1 N+32 N010 DMOD
M3 out N008 N010 Q3tj Q3tc IRFP9240 thermal
Rc1 Q3tc Q3hs 0.15
Rc3 Q4tc Q4hs 0.15
Rc5 Q5tc Q5hs 0.15
Rc7 Q6tc Q6hs 0.15
R20 N+32 N014 1
R19 N+32 N014 1
D4a1 N+32 N014 DMOD
D4b1 N+32 N014 DMOD
M4 out N011 N014 Q4tj Q4tc IRFP9240 thermal
R14 N011 N004 47.5
Vt1 N015 0 40
Ra1 out 0 R = 'TIME < 4 ? 8 : 4'
Cc1 Q3hs 0 1
V3 in 0 dc 0 sin(0 2 1k 5m)
Cc2 Q4hs 0 1
Cc3 Q5hs 0 1
R11 N007 N004 2.2k
Cc4 Q6hs 0 1
V1 N+32 0 dc 0 pulse(0 32 0.4m 2m 2m 100 200)
V2 N-32 0 dc 0 pulse(0 -32 0.4m 2m 2m 100 200)
XTH1 N010 Q3hs N007 th
XTH2 N009 Q5hs N006 th
.tran 1
.backanno
.end
